US07622469B2
6-Undecyl-1-(4′-chlorophenyl)-2,4-diamino-1,6-dihydro-6-methyl-1,3,5-triazine hydrochloride
200 ml of ethanol, 10.1 g (50.9 mmol) of 2-tridecanone and 2.0 ml of concentrated hydrochloric acid were added to 12.0 g (48.4 mmol) of N1-phenyl-biguanide hydrochloride, and the mixture was refluxed for 40 hours. The solvent was distilled off under reduced pressure, and the residue was purified two times by silica gel column chromatography (elution with a mixture of chloroform and methanol (8:1.5) and subsequently with a mixture of chloroform/methanol/acetic acid (8:0.5:0.5→8:1:1)). The eluate was dissolved in 80% aqueous ethanol, and the solvent was distilled off under reduced pressure. The residue was dried well under reduced pressure to obtain 6.6 g of a pale yellow resinous solid.

reactant | 2-tridecanone | 50.9 mmol, 10.1 g | CC(CCCCCCCCCCC)=O | C13H26O
reactant | hydrochloric acid | 2.0 ml | Cl | ClH
reactant | N1-phenyl-biguanide hydrochloride | 48.4 mmol, 12.0 g | Cl.C1(=CC=CC=C1)NC(=N)NC(=N)N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 6-Undecyl-1-(4′-chlorophenyl)-2,4-diamino-1,6-dihydro-6-methyl-1,3,5-triazine hydrochloride | 6.6 g | Cl.C(CCCCCCCCCC)C1(N=C(N=C(N1C1=CC=C(C=C1)Cl)N)N)C | InChI=1S/C21H34ClN5.ClH/c1-3-4-5-6-7-8-9-10-11-16-21(2)26-19(23)25-20(24)27(21)18-14-12-17(22)13-15-18;/h12-15H,3-11,16H2,1-2H3,(H4,23,24,25,26);1H
